US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a toluene solution of 1-(5-fluoro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene in toluene (2 M, 5 mL, 10 mmol) was added E/Z 6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (1.5 g, 2.9 mmol). The reaction mixture was heated at 80° C. overnight under argon protection, then TFA (5 mL) was added, and the resulting mixture was stirred at room temperature for 20 min, evaporated in vacuo. The residue was partitioned between ethyl acetate and NaOH aq. (1 M). The organic layer was washed with water, dried over anhydrous Na2SO4, concentrated and purified by column chromatography to give the title compound as a white solid (340 mg).

reactant | 1-(5-fluoro-2-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)C | C13H18FNOSi
reactant | 6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.9 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C(C(C2=CC=C(C=C12)Cl)=CC1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=O | C26H25Cl2NO6
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mmol, 2 M, 5 mL | C1(=CC=CC=C1)C | C7H8
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 340 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=O)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2FN2O5
